US06313311B1
a) 3-(1H-Imidazol-4-ylmethyl)-6-methoxyindan-5-carbaldehyde
Tin(IV)chloride (800 mg) is added dropwise to a stirred solution of dichloromethyl methyl ether (343 mg) in methylene chloride (8 ml) with ice cooling under a nitrogen atmosphere. The solution is stirred at 0° C. for one hour before adding a solution of 4-(5-methoxyindan-1-ylmethyl)-1H-imidazole (300 mg) in methylene chloride (4 ml). The resulting mixture is allowed to warm to ambient temperature while being stirred for 4 hours. The mixture is then poured into cold water and is made basic with ammonium hydroxide solution. Work-up of the mixture gives the crude product which is purified by flash chromatography and recrystallized from ethyl acetate.

reactant | Tin(IV)chloride | 800 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | dichloromethyl methyl ether | 343 mg | COC(Cl)Cl | C2H4Cl2O
reactant | 4-(5-methoxyindan-1-ylmethyl)-1H-imidazole | 300 mg | COC=1C=C2CCC(C2=CC1)CC=1N=CNC1 | C14H16N2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(1H-Imidazol-4-ylmethyl)-6-methoxyindan-5-carbaldehyde | N1C=NC(=C1)CC1CCC2=CC(=C(C=C12)C=O)OC | C15H16N2O2
